US06861428B2
1) Preparation of 2-[2-(2-chlorophenyl)ethyl]-6-(4-fluoro-3-methylphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one
Following the procedure of Example 1(6), 6-(4-fluoro-3-methylphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one and 2-(2-chlorophenyl)ethanol methanesulfonate were reacted to yield the title compound as a pale yellow solid (yield: 59.8%).

reactant | 6-(4-fluoro-3-methylphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one | FC1=C(C=C(C=C1)C=1C=C(C(NN1)=O)C(=O)OC)C | C13H11FN2O3
reactant | 2-(2-chlorophenyl)ethanol methanesulfonate | CS(=O)(=O)OCCC1=C(C=CC=C1)Cl | C9H11ClO3S
product | 2-[2-(2-chlorophenyl)ethyl]-6-(4-fluoro-3-methylphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one | yield: 59.8% | ClC1=C(C=CC=C1)CCN1N=C(C=C(C1=O)C(=O)OC)C1=CC(=C(C=C1)F)C | C21H18ClFN2O3
